US07795288B2
[4-(2-Dimethylamino-ethoxy)-phenyl]-thiourea
The title compound is prepared as described in Example 1 for [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-urea but using [2-(4-isothiocyanato-phenoxy)-ethyl]-dimethyl-amine. The title compound: ES-MS: 240.0 [M+H]+; single peak at tR=3.52 min (System 1).

reactant | [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-urea | N1(CCCC1)CCOC1=CC=C(C=C1)NC(=O)N | C13H19N3O2
reactant | [2-(4-isothiocyanato-phenoxy)-ethyl]-dimethyl-amine | N(=C=S)C1=CC=C(OCCN(C)C)C=C1 | C11H14N2OS
product | [4-(2-Dimethylamino-ethoxy)-phenyl]-thiourea | CN(CCOC1=CC=C(C=C1)NC(=S)N)C | C11H17N3OS
